US04681848
(x) Production of Z-Ser-NHNH-Boc
Z-Ser-OH (10.0 g) and 6.2 g of t-butyl carbazate were dissolved in 150 ml of DMF and the solution was ice-cooled. HONB (8.0 g) and 9.3 g of DCC were added and the mixture was stirred for 15 hours. The formed DCU was filtered off and the filtrate was concentrated. The residue was extracted into AcOEt and the AcOEt solution was washed with 4% aqueous NaHCO3 and 10% aqueous citric acid, dried over Na2SO4 and concentrated. Ether was added and the crystals was collected by filtration. Yield 7.3 g (50.4%), mp 95°-98° C., [α]D26 -6.2° (c=0.8, DMF), Rf1 0.62.

reactant | Z-Ser-OH | 10.0 g | N([C@@H](CO)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO5
reactant | t-butyl carbazate | 6.2 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | HONB | 8.0 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 9.3 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | Z-Ser-NHNH-Boc | N([C@@H](CO)C(=O)NNC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C16H23N3O6
